US05144045
2-[(Hexadecyloxy)methyl]-4-heneicosyn-1-ol
A mixture of 5.0 g of 2-(2-nonadecynyl)-1,3-propanediol, 75 ml of N,N-dimethylformamide, 710 mg of 60% sodium hydride and 5.4 ml of hexadecyl bromide is heated at 70° C. for 2 hours and then evaporated. The residue is purified by flash chromatography with an ethyl acetate:petroleum ether gradient to give 5.8 g of the desired compound as white crystals, mp. 46°-47° C.

reactant | 2-(2-nonadecynyl)-1,3-propanediol | 5.0 g | C(C#CCCCCCCCCCCCCCCCC)C(CO)CO | C22H42O2
reactant | sodium hydride | 710 mg | [H-].[Na+]
reactant | hexadecyl bromide | 5.4 ml | C(CCCCCCCCCCCCCCC)Br | C16H33Br
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 2-[(Hexadecyloxy)methyl]-4-heneicosyn-1-ol | 5.8 g | C(CCCCCCCCCCCCCCC)OCC(CO)CC#CCCCCCCCCCCCCCCCC | C38H74O2
